* PSpice Model Editor - Version 17.4.0

*$
* LM2903 VOLTAGE COMPARATOR "MACROMODEL" SUBCIRCUIT
* CREATED USING PARTS VERSION 4.03 ON 03/14/90 AT 13:05
* REV (N/A)
* CONNECTIONS:          NON-INVERTING INPUT
*                       | INVERTING INPUT
*                       | | POSITIVE POWER SUPPLY
*                       | | | NEGATIVE POWER SUPPLY
*                       | | | | OPEN COLLECTOR OUTPUT
*                       | | | | |
.SUBCKT LM2903/5_1/TI   1 2 3 4 5
*
F1    9  3 V1 1
IEE   3  7 DC 100.0E-6
VI1  21  1 DC .75
VI2  22  2 DC .75
Q1    9 21  7 QIN
Q2    8 22  7 QIN
Q3    9  8  4 QMO
Q4    8  8  4 QMI
.MODEL QIN PNP(IS=800.0E-18 BF=2.000E3)
.MODEL QMI NPN(IS=800.0E-18 BF=1002)
.MODEL QMO NPN(IS=800.0E-18 BF=1000 CJC=1E-15 TR=807.4E-9)
E1   10  4  9  4  1
V1   10 11 DC 0
Q5    5 11  4 QOC
.MODEL QOC NPN(IS=800.0E-18 BF=3.378E3 CJC=1E-15 TF=930.2E-12 TR=543.8E-9)
DP    4  3 DX
RP    3  4 50.00E3
.MODEL DX  D(IS=800.0E-18)
*
.ENDS
*$
